US04699926
A mixture of 2,3-dichloro-4-butyrylphenol (7 g, 0.03 mole), ethyl 1-bromocyclobutanecarboxylate (10.23 g, 0.049 mole) and potassium carbonate (7.5 g, 0.054 mole) in N,N-dimethylformamide (60 ml) was stirred and heated at 65° C. for 18 hours. The reaction mixture was poured into ice water and the resulting mixture was extracted with ether. The ether extract was washed with a 1% sodium hydroxide solution, then with water and finally dried over MgSO4. The ether was evaporated in vacuo and the residue treated with acetic acid (60 ml) and 5% hydrochloric acid (15 ml). The mixture was stirred and refluxed overnight. The solvents were evaporated in vacuo. The residue was chromatographed over a column containing silica gel (140 g) using methylene chloride/tetrahydrofuran/acetic acid 50/1/1 as the eluent. The pertinent fractions were united, treated with toluene and evaporated in vacuo to obtain 1-(2,3-dichloro-4-butyrylphenoxy)cyclobutane-1-carboxylic acid as a liquid whose identity was confirmed by NMR and purity by thin layer chromatography.

reactant | 2,3-dichloro-4-butyrylphenol | 0.03 mole, 7 g | ClC1=C(C=CC(=C1Cl)C(CCC)=O)O | C10H10Cl2O2
reactant | ethyl 1-bromocyclobutanecarboxylate | 0.049 mole, 10.23 g | BrC1(CCC1)C(=O)OCC | C7H11BrO2
reactant | potassium carbonate | 0.054 mole, 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-(2,3-dichloro-4-butyrylphenoxy)cyclobutane-1-carboxylic acid | ClC1=C(OC2(CCC2)C(=O)O)C=CC(=C1Cl)C(CCC)=O | C15H16Cl2O4
